US08304446B2
3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-7-fluoro-4-(methyloxy)-1H-indazol-1-yl]methyl}benzamide
To a solution of 3-{[3-amino-7-fluoro-4-(methyloxy)-1H-indazol-1-yl]methyl}benzamide (for a preparation see Intermediate 14) (22 mg, 0.07 mmol) in anhydrous pyridine (1 mL) and anhydrous dichloromethane (3 mL) (gentle heating of the mixture for a few minutes with a heatgun was required in order for the starting material to go in solution) was added a solution of 5-chloro-2-thiophenesulfonyl chloride (16.71 mg, 0.077 mmol) in anhydrous dichloromethane (0.5 mL). The reaction was stirred at room temperature for 45 min, then at 45° C. for 30 min. A solution of 5-chloro-2-thiophenesulfonyl chloride (16.7 mg) in anhydrous dichloromethane (0.2 mL) was added to the reaction mixture and stirred at 45° C. for 25 h. The reaction mixture was cooled and then partitioned between water and dichloromethane. The organic layer was passed through an hydrophobic frit and evaporated in-vacuo to yield a pale yellow solid. The solid was dissolved in MeOH-DMSO (1 mL) and purified by MDAP on Sunfire C18 column, eluting with solvents A/B (A: 0.1% v/v solution of formic acid in water, B: 0.1% v/v solution of formic acid in acetonitrile). Appropriate fraction was evaporated in-vacuo to yield the title compound as a white solid (15.7 mg, 45%). LCMS (5 min run) RT=2.62 min, ES+ve m/z 495/497 (M+H)+.

reactant | 3-{[3-amino-7-fluoro-4-(methyloxy)-1H-indazol-1-yl]methyl}benzamide | NC1=NN(C2=C(C=CC(=C12)OC)F)CC=1C=C(C(=O)N)C=CC1 | C16H15FN4O2
reactant | 5-chloro-2-thiophenesulfonyl chloride | 0.077 mmol, 16.71 mg | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
reactant | 5-chloro-2-thiophenesulfonyl chloride | 16.7 mg | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 0.5 mL | ClCCl | CH2Cl2
solvent | DCM | 0.2 mL | ClCCl | CH2Cl2
solvent | MeOH DMSO | 1 mL | CO.CS(=O)C
solvent | DCM | 3 mL | ClCCl | CH2Cl2
product | 3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-7-fluoro-4-(methyloxy)-1H-indazol-1-yl]methyl}benzamide | 15.7 mg, 45% | ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=C(C=CC(=C12)OC)F)CC=1C=C(C(=O)N)C=CC1 | C20H16ClFN4O4S2
